US05232945
C. (S)-4-Benzyl-3-[(1S)-2-(4-hydroxyphenyl)-1-phenoxyethyl]-2-oxazolidinone
A solution of (S)-4-benzyl-3-[(1S)-2-(4-benzyloxyphenyl)-1-phenoxyethyl]-2-oxazolidinone (1.8 g) in ethyl acetate (50 ml) containing 10% palladium on carbon (1.8 g) was hydrogenated at 40 psi overnight. The catalyst was filtered, the solution concentrated and the product purified by flash-chromatography (hexanes/ethyl acetate, 3:2) as an oil (0.81 g).

reactant | (S)-4-benzyl-3-[(1S)-2-(4-benzyloxyphenyl)-1-phenoxyethyl]-2-oxazolidinone | 1.8 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)[C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)OC1=CC=CC=C1 | C31H29NO4
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 1.8 g | [Pd] | Pd
product | (S)-4-Benzyl-3-[(1S)-2-(4-hydroxyphenyl)-1-phenoxyethyl]-2-oxazolidinone | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)[C@H](CC1=CC=C(C=C1)O)OC1=CC=CC=C1 | C24H23NO4
